US08937167B2
Methyl 2-(3-methoxycarbonylphenyl)-5-[(2R,3S,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]oxy-benzoate (6).
6 was prepared via glycosidation between α-D-mannose pentaacetate and methyl 5-hydroxy-2-(3-methoxycarbonylphenyl)benzoate following the procedure previously described.25 Yield: 73%. 1H NMR (300 MHz, METHANOL-d4) δ ppm 3.56-3.68 (m, 4H) 3.68-3.84 (m, 3H) 3.86-3.98 (m, 4H) 4.06 (dd, J=3.30, 1.92 Hz, 1H) 5.60 (d, J=1.92 Hz, 1H) 7.29-7.43 (m, 2H) 7.45-7.53 (m, 2H) 7.56 (d, J=2.47 Hz, 1H) 7.84-7.92 (m, 1H) 7.93-8.04 (m, 1H). MS (ESI): found [M+H]+, 449.0.

reactant | α-D-mannose pentaacetate | C(C)(=O)O[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | methyl 5-hydroxy-2-(3-methoxycarbonylphenyl)benzoate | OC=1C=CC(=C(C(=O)OC)C1)C1=CC(=CC=C1)C(=O)OC | C16H14O5
product | Methyl 2-(3-methoxycarbonylphenyl)-5-[(2R,3S,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]oxy-benzoate | Yield: 73% | COC(=O)C=1C=C(C=CC1)C1=C(C(=O)OC)C=C(C=C1)O[C@H]1O[C@@H]([C@H]([C@@H]([C@@H]1O)O)O)CO | C22H24O10
